US07087601B2
The solution of 4-(1,3-benzoxazol-2-yl)-2-methoxyphenol (7.1 g, 29.4 mmol) in anhydrous DMF (100 mL) was treated with Cs2CO3 (9.6 g, 29.4 mmol) and N-phenyl trifluoromethanesulfonimide (10.5 g, 29.4 mmol) at 22° C. for 30 min. After which time it was quenched with sat. NaHCO3 (50 mL) and diluted with EtOAc (500 mL). The EtOAc solution was washed with sat. brine (3×10 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed on silica gel, eluting with 4:1 hexanes:EtOAc to afford 4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl trifluoromethanesulfonate as a colorless oil. MS (ESI) 374 (M+H)+.

reactant | 4-(1,3-benzoxazol-2-yl)-2-methoxyphenol | 29.4 mmol, 7.1 g | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)O)OC | C14H11NO3
reactant | Cs2CO3 | 29.4 mmol, 9.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | N-phenyl trifluoromethanesulfonimide | 29.4 mmol, 10.5 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC)(F)F | C15H10F3NO5S
